US09079889B2
Method 1 was followed using 6-bromo-3-fluoropicolinic acid (1.0 equiv.) and 2-fluorophenylboronic acid (1.5 equiv.) and Pd(dppf)Cl2-DCM (0.05 equiv.) to give 3-fluoro-6-(2-fluorophenyl)picolinic acid in 81% yield. LC/MS=236.1 (M+H), Rt=0.72 min.

reactant | 6-bromo-3-fluoropicolinic acid | 1.0 equiv. | BrC1=CC=C(C(=N1)C(=O)O)F | C6H3BrFNO2
reactant | 2-fluorophenylboronic acid | 1.5 equiv. | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
catalyst | Pd(dppf)Cl2 DCM | 0.05 equiv. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 3-fluoro-6-(2-fluorophenyl)picolinic acid | 81% yield | FC=1C(=NC(=CC1)C1=C(C=CC=C1)F)C(=O)O | C12H7F2NO2
